US05238948
17. Bis(5-methyl-2-oxo-1,3-dioxol-4-yl-methyl) pyridine-2,5-dicarboxylate
Analogously to Example 7, 6.3 g of pyridine-2,5-dicarboxylic acid sodium salt are reacted with 14.3 g of 5-methyl-2-oxo-1,3-dioxol-4-yl-methyl bromide and the mixture is boiled under reflux in acetone for 2.5 hours. After chromatography over silica gel with ethyl acetate as the mobile phase, the product is recrystallized from hot ethyl acetate.

reactant | pyridine-2,5-dicarboxylic acid sodium salt | 6.3 g | [Na+].N1=C(C=CC(=C1)C(=O)[O-])C(=O)[O-].[Na+]
reactant | 5-methyl-2-oxo-1,3-dioxol-4-yl-methyl bromide | 14.3 g | CC1=C(OC(O1)=O)CBr | C5H5BrO3
solvent | acetone | CC(=O)C | C3H6O
product | Bis(5-methyl-2-oxo-1,3-dioxol-4-yl-methyl) pyridine-2,5-dicarboxylate | N1=C(C=CC(=C1)C(=O)OCC=1OC(OC1C)=O)C(=O)OCC=1OC(OC1C)=O | C17H13NO10
